  ADDER - 4 BIT ALL-NAND-GATE BINARY ADDER
* Adapted from Ngspice: examples/digital/compare/adder_mos.cir

* use BSIM3 model with default parameters
.model n1 nmos level=49 version=3.3.0
.model p1 pmos level=49 version=3.3.0

*** SUBCIRCUIT DEFINITIONS
.SUBCKT NAND in1 in2 out VDD
*   NODES:  INPUT(2), OUTPUT, VCC
M1 out in2 Vdd Vdd p1 W=7.5u L=0.35u pd=13.5u ad=22.5p ps=13.5u as=22.5p
M2 net.1 in2 0 0 n1   W=3u   L=0.35u pd=9u    ad=9p    ps=9u    as=9p
M3 out in1 Vdd Vdd p1 W=7.5u L=0.35u pd=13.5u ad=22.5p ps=13.5u as=22.5p
M4 out in1 net.1 0 n1 W=3u   L=0.35u pd=9u    ad=9p    ps=9u    as=9p
.ENDS NAND

.SUBCKT ONEBIT 1 2 3 4 5 6
*   NODES:  INPUT(2), CARRY-IN, OUTPUT, CARRY-OUT, VCC
X1   1  2  7  6   NAND
X2   1  7  8  6   NAND
X3   2  7  9  6   NAND
X4   8  9 10  6   NAND
X5   3 10 11  6   NAND
X6   3 11 12  6   NAND
X7  10 11 13  6   NAND
X8  12 13  4  6   NAND
X9  11  7  5  6   NAND
.ENDS ONEBIT

.SUBCKT TWOBIT 1 2 3 4 5 6 7 8 9
*   NODES:  INPUT - BIT0(2) / BIT1(2), OUTPUT - BIT0 / BIT1,
*           CARRY-IN, CARRY-OUT, VCC
X1   1  2  7  5 10  9   ONEBIT
X2   3  4 10  6  8  9   ONEBIT
.ENDS TWOBIT

.SUBCKT FOURBIT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15
*   NODES:  INPUT - BIT0(2) / BIT1(2) / BIT2(2) / BIT3(2),
*           OUTPUT - BIT0 / BIT1 / BIT2 / BIT3, CARRY-IN, CARRY-OUT, VCC
X1   1  2  3  4  9 10 13 16 15   TWOBIT
X2   5  6  7  8 11 12 16 14 15   TWOBIT
.ENDS FOURBIT

*** POWER
VCC   99  0   DC 3.3V

*** DEFINE NOMINAL CIRCUIT
X1     a0 b0 a1 b1 a2 b2 a3 b3 y[0] y[1] y[2] y[3] 0 13 99 FOURBIT

*** ALL INPUTS
VA[0]  a0  0 EXTERNAL
VB[0]  b0  0 EXTERNAL
VA[1]  a1  0 EXTERNAL
VB[1]  b1  0 EXTERNAL
VA[2]  a2  0 EXTERNAL
VB[2]  b2  0 EXTERNAL
VA[3]  a3  0 EXTERNAL
VB[3]  b3  0 EXTERNAL

* Dummy output nodes for plotting

r0 y[0] y0 1
r1 y[1] y1 1
r2 y[2] y2 1
r3 y[3] y3 1

.option noinit acct norefvalue
.save  a0 b0 a1 b1 a2 b2 a3 b3 y0 y1 y2 y3 y[0] y[1] y[2] y[3] 13
.TRAN 10n 10m

.END
